US05587386
4-tert-Butoxycarbonylamino-3,3-dimethyl-1-[1-(R)-phenylethyl]-pyrrolidine
To an ice cooled solution of 3.69 g of 4-amino-3,3-dimethyl-1-[1-(R)-phenylethyl]-pyrrolidine in 40 ml of anhydrous tetrahydrofuran there was added 4.92 g of 2-(tert-butoxycarbonylamino)-2-phenylacetonitrile and the mixture was stirred at room temperature for 1 hr. Solvent was removed under reduced pressure, and to the residue there was added ethyl acetate. The mixture was washed with a 1N sodium hydroxide aqueous solution three times and then dried. Solvent was then removed under reduced pressure. The residue was purified through column chromatography using 200 g of silica gel in a column with chloroform as the eluant containing from 1% to 5% methanol to yield 4.32 g of the titled compound.

reactant | 4-amino-3,3-dimethyl-1-[1-(R)-phenylethyl]-pyrrolidine | 3.69 g | NC1C(CN(C1)[C@H](C)C1=CC=CC=C1)(C)C | C14H22N2
reactant | 2-(tert-butoxycarbonylamino)-2-phenylacetonitrile | 4.92 g | C(C)(C)(C)OC(=O)NC(C#N)C1=CC=CC=C1 | C13H16N2O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-tert-Butoxycarbonylamino-3,3-dimethyl-1-[1-(R)-phenylethyl]-pyrrolidine | 4.32 g | C(C)(C)(C)OC(=O)NC1C(CN(C1)[C@H](C)C1=CC=CC=C1)(C)C | C19H30N2O2
